US06573218B1
Preparation of 2-(2-i-butyl-7-Chloro-5-fluorobenzoxazol-4-yl)-5-trifluoromethylpyridazin-3-one (Compound no. 12-2)
A mixture of 2-(2-amino-4-chloro-6-fluoro-3-methoxyphenyl)-5-trifluoromethylpyridazin-3-one (0.39 g) and borontribromide-methyl sulfide complex (1.8 g) in dichloroethane was heated at reflux temperature for 1 hour under nitrogen atmosphere. The mixture was poured into water and extracted with methylene dichloride. The organic phase was dried over anhydrous sodium sulfate and concentrated to give the title compound. 1H NMR (CDCl3, 300 MHz) 4.61 (3H, br s), 6.55 (1H, d, J=9.4 Hz), 7.30 (1H, m), 8.05 (1H, d, J=2.2 Hz) ppm.

reactant | 2-(2-amino-4-chloro-6-fluoro-3-methoxyphenyl)-5-trifluoromethylpyridazin-3-one | 0.39 g | NC1=C(C(=CC(=C1OC)Cl)F)N1N=CC(=CC1=O)C(F)(F)F | C12H8ClF4N3O2
reactant | borontribromide-methyl sulfide complex | 1.8 g | [B-]([S+](C)C)(Br)(Br)Br | C2H6BBr3S
reactant | water | O | H2O
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
product | 2-(2-i-butyl-7-Chloro-5-fluorobenzoxazol-4-yl)-5-trifluoromethylpyridazin-3-one | C(C(C)C)C=1OC2=C(N1)C(=C(C=C2Cl)F)N2N=CC(=CC2=O)C(F)(F)F | C16H12ClF4N3O2
